US07732446B1
To a solution of [6,8-dimethoxy-4-(4-methyl-thiazol-2-ylamino)-isoquinolin-1-ylmethyl]carbamic acid tert-butyl ester (20 mg, 0.045 mmol) in 1 mL CH2Cl2 was added a 4.0 M HCl solution in dioxane (0.70 mL). After the reaction mixture was stirred at room temperature for 20 h, the resulting yellow solid was collected by suction filtration, and dried in vacuo to give (1-aminomethyl-6,8-dimethoxy-isoquinolin-4-yl)-(4-methyl-thiazol-2-yl)amine hydrochloride salt (9.0 mg, 53%). 1H-NMR (D2O): δ, 8.35 (s, 1H), 6.75 (s, 2H), 6.35 (s, 1H), 4.78 (s, 2H), 3.89 (s, 3H), 3.77 (s, 3H), 2.06 (s, 3H); MS: calculated for C16H19N4O2S (M−Cl) 331.0; found: 331.0.

reactant | [6,8-dimethoxy-4-(4-methyl-thiazol-2-ylamino)-isoquinolin-1-ylmethyl]carbamic acid tert-butyl ester | 0.045 mmol, 20 mg | C(C)(C)(C)OC(NCC1=NC=C(C2=CC(=CC(=C12)OC)OC)NC=1SC=C(N1)C)=O | C21H26N4O4S
reactant | HCl | 4.0 M | Cl | ClH
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | dioxane | 0.70 mL | O1CCOCC1 | C4H8O2
product | (1-aminomethyl-6,8-dimethoxy-isoquinolin-4-yl)-(4-methyl-thiazol-2-yl)amine hydrochloride salt | 9.0 mg, 53% | Cl.NCC1=NC=C(C2=CC(=CC(=C12)OC)OC)NC=1SC=C(N1)C | InChI=1S/C16H18N4O2S.ClH/c1-9-8-23-16(19-9)20-13-7-18-12(6-17)15-11(13)4-10(21-2)5-14(15)22-3;/h4-5,7-8H,6,17H2,1-3H3,(H,19,20);1H
